* C:\users\thiago\Documents\UTN\2026\Electronica_Aplicada_2\Electronica_Aplicada_2\Parciales\1er_Parcial\archivos\Mezclador.asc
* Generated by LTspice 26.0.2 for Windows.
R2 N003 N004 {R_f1}
R3 N004 0 {R_11}
R6 N008 N009 {R_f2}
R7 N009 0 {R_12}
R8 N005 N008 {R_1}
R4 N005 N003 {R_1}
R20 N005 N010 {R_1}
R21 Vo N005 {R_f}
C1 N002 N001 {C_1}
R1 N002 0 {R_G}
C2 N007 N006 {C_1}
R5 N007 0 {R_G}
C3 N012 N011 {C_1}
R9 N012 0 {R_G}
C4 N020 N019 {C_1}
R13 N020 0 {R_G}
R10 N013 N014 {R_f3}
R12 N017 N018 {R_f3}
R11 N014 N017 {R_13}
R15 N016 N018 {R_1}
R14 N015 N013 {R_1}
R16 N016 0 {R_2}
R17 N010 N015 {R_2}
V1 N001 0 SINE(0 40m 100)
V2 N006 0 SINE(0 100m 1k)
V3 N011 0 SINE(2.5 25m 5k 0 0 0)
V4 N019 0 SINE(2.5 25m 5k 0 0 180)
X§U1 N002 N004 V+ V- N003 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U2 N007 N009 V+ V- N008 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U3 N012 N014 V+ V- N013 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U4 N020 N017 V+ V- N018 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U5 N016 N015 V+ V- N010 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U6 0 N005 V+ V- Vo TL072 ;§pnba In+)In-)V+)V-)OUT
V5 V+ 0 15
V6 0 V- 15
.param R_11 = 1K
.param R_f1 = 24K
.param R_12 = 3K
.param R_f2 = 27K
.param R_G = 100K
.param R_1 = 10k
.param R_2 = 10k
.param C_1 = 220n
.param R_f3 = 9.53k
.param R_13 = 1k
.param R_f = 10k
.inc TL072.lib
.tran 100m
.backanno
.end
